US06720338B2
4-(5-chloro-3-methyl-1-benzothien-2-yl)morpholine
A mixture of 2-bromo-5-chloro-3-methylbenzthiophene (523 mg, 2 mmol), morpholine (210 uL, 2.4 mmol), Pd2dba3 (37 mg, 0.04 mmol), BINAP (62 mg, 0.1 mmol), and sodium tert-butoxide (270 mg, 2.8 mmol) in toluene (5 mL) was stirred at 80° C. for 18 hours. The reaction mixture was purified by flash column chromatography on silica gel with 20% ethyl acetate/hexanes to provide the desired product. MS (ESI(+)) m/e 268 (M+H)+.

reactant | 2-bromo-5-chloro-3-methylbenzthiophene | 2 mmol, 523 mg | BrC=1SC2=C(C1C)C=C(C=C2)Cl | C9H6BrClS
reactant | morpholine | 2.4 mmol, 210 uL | N1CCOCC1 | C4H9NO
reactant | BINAP | 0.1 mmol, 62 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 2.8 mmol, 270 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.04 mmol, 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-chloro-3-methyl-1-benzothien-2-yl)morpholine | ClC=1C=CC2=C(C(=C(S2)N2CCOCC2)C)C1 | C13H14ClNOS
